US04649221
The procedure of Example 3 is repeated using 18.6 g of anhydrous dibasic sodium phosphate, 8.4 g of N,N'-dioctadecyl-p-xylylenediamine and 7.02 g of benzoyl peroxide to afford 5.5 g of N,N'-dioctadecyl-N,N'-dibenzoyloxy-p-xylylenediamine. Saponification of 4.65 g of the above with 0.89 g of powdered potassium hydroxide in 50 ml of methanol yields 2.0 g of product as a white solid; m.p. 118°-120° C.

reactant | sodium phosphate | 18.6 g | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | N,N'-dioctadecyl-p-xylylenediamine | 8.4 g | C(CCCCCCCCCCCCCCCCC)NCC1=CC=C(C=C1)CNCCCCCCCCCCCCCCCCCC | C44H84N2
reactant | benzoyl peroxide | 7.02 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | N,N'-dioctadecyl-N,N'-dibenzoyloxy-p-xylylenediamine | 5.5 g | C(CCCCCCCCCCCCCCCCC)N(CC1=CC=C(C=C1)CN(OC(C1=CC=CC=C1)=O)CCCCCCCCCCCCCCCCCC)OC(C1=CC=CC=C1)=O | C58H92N2O4
